US06617330B2
(2-Butyl-3-propyl-3H-thieno[2,3-d]pyrimidin-4-ylidene)methylamine
In a sulfonation flask 3.74 g (0.015 mol) 2-butyl-3-propyl-3H-thieno [2,3-d]pyrimidine-4-ylideneamine, 2.84 g (0.03 mol) Mel, 4.15 g (0.03 mol) powdered sodium carbonate and 50 ml abs. DMF are stirred for 4 hours at an internal temperature of 70° C. Then DMF is distilled off in vacuum and the residue taken up in ethylacetate. The organic phase is washed with water and after drying the organic phase over Na2SO4 the solvent is removed in a water jet vacuum. The raw material is purified by column chromatography over silica gel (eluant: hexane/THF 1:1). Yield: 2.7 g of (2-butyl-3-propyl-3H-thieno [2,3-d]pyrimidin-4-ylidene) methylamine in the form of yellow crystals, m.p. 45-47° C.

reactant | 2-butyl-3-propyl-3H-thieno [2,3-d]pyrimidine-4-ylideneamine | 0.015 mol, 3.74 g | C(CCC)C=1N(C(C2=C(N1)SC=C2)=N)CCC | C13H19N3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
product | (2-Butyl-3-propyl-3H-thieno[2,3-d]pyrimidin-4-ylidene)methylamine | C(CCC)C=1N(C(C2=C(N1)SC=C2)=CN)CCC | C14H21N3S
